US07488844B2
(iv) (2S)-3-(4-{2-[(2,4-Difluorobenzyl)(octyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid
To a solution of ethyl(2S)-3-(4-{2-[(2,4-difluorobenzyl)(octyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate (0.038 g, 0.071 mmol) in THF (3 mL) was added aqueous 0.10 M LiOH (2 mL) and the reaction mixture was stirred at room temperature overnight. After acidification with 5% HCl, the mixture was extracted with ethyl acetate (3×25 mL) and the combined organic phase was washed with brine (25 mL), dried over anhydrous Na2SO4, and concentrated in vacuo to afford 0.035 g (98%) of a colourless oil.

reactant | ethyl(2S)-3-(4-{2-[(2,4-difluorobenzyl)(octyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 0.071 mmol, 0.038 g | FC1=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CCCCCCCC)C=CC(=C1)F | C30H41F2NO5
reactant | LiOH | 0.10 M, 2 mL | [Li+].[OH-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2S)-3-(4-{2-[(2,4-Difluorobenzyl)(octyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid | 0.035 g, 98% | FC1=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)O)OCC)=O)CCCCCCCC)C=CC(=C1)F | C28H37F2NO5
